US04950764
(Example 3) Synthesis of 5-undecyl-3-hydroxyisoxazole
The above-identified compound was synthesized according to the process of (Example 1) using hydroxylamine hydrochloride and dodecanoylacetic acid ethylester as raw materials.

reactant | hydroxylamine hydrochloride | Cl.NO
reactant | dodecanoylacetic acid ethylester | C(C)OC(CC(CCCCCCCCCCC)=O)=O | C16H30O3
product | 5-undecyl-3-hydroxyisoxazole | C(CCCCCCCCCC)C1=CC(=NO1)O | C14H25NO2
